US07781454B2
Step 2: 3-(3-bromo-5-chlorophenoxy)-4-chloro-2-nitroaniline
To copper (I) chloride (5.45 mg, 0.055 mmol) and potassium tert-butoxide (247 mg, 2.204 mmol) suspended in DMF (3 mL) at 0° C. was added 1,1,1-trimethylhydrazinium iodide (139 mg, 0.689 mmol). This mixture was allowed to stir for several minutes at which point the mixture was cooled to −40° C. and 2-(3-bromo-5-chlorophenoxy)-1-chloro-3-nitrobenzene (200 mg, 0.551 mmol) as a solution in DMF (1 mL) was added dropwise. The reaction was maintained at −40° C. for 15 minutes and was then quenched at −40° C. with saturated aqueous ammonium chloride (10 mL). Water (10 mL) was added and the mixture was allowed to warm to room temperature. The mixture was extracted with ethyl acetate (2×50 mL). The combined organic fractions were washed with water (3×50 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by automated column chromatography on silica gel (40 g) eluting with 0-25% EtOAc/hexanes to give the title product. LRMS (M+1)=378.7.

reactant | potassium tert-butoxide | 2.204 mmol, 247 mg | CC(C)([O-])C.[K+]
reactant | 1,1,1-trimethylhydrazinium iodide | 0.689 mmol, 139 mg | [I-].C[N+](N)(C)C
reactant | 2-(3-bromo-5-chlorophenoxy)-1-chloro-3-nitrobenzene | 0.551 mmol, 200 mg | BrC=1C=C(OC2=C(C=CC=C2[N+](=O)[O-])Cl)C=C(C1)Cl | C12H6BrCl2NO3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) chloride | 0.055 mmol, 5.45 mg | [Cu]Cl
product | 3-(3-bromo-5-chlorophenoxy)-4-chloro-2-nitroaniline | BrC=1C=C(OC=2C(=C(N)C=CC2Cl)[N+](=O)[O-])C=C(C1)Cl | C12H7BrCl2N2O3
